US04356118
N-[N-(3-mercapto-2-methyl-1-oxopropyl)-3-methyl-valyl]tryptophan.
The title compound is prepared using the previously described procedures and the following reagants: 0.90 g (1.89 mmoles) of N-(S-acetyl-β-mercaptoisobutyroyl)-3-methylvalyl-tryptophan methyl ester, 8 ml of 95 percent ethanol, 4.0 ml of 1 N NaOH. Chromatographed yield is 0.54 grams (63 percent). Analysis calculated for C21H29N3O4S: C, 60.12; H, 6.97; N, 10.02; S, 7.64. Found: C, 60.27; H, 7.14; N, 9.42; S, 7.25.

reactant | N-(S-acetyl-β-mercaptoisobutyroyl)-3-methylvalyl-tryptophan methyl ester | 1.89 mmoles, 0.90 g | COC([C@@H](NC([C@@H](NC(C(CSC(C)=O)C)=O)C(C)(C)C)=O)CC1=CNC2=CC=CC=C12)=O | C24H33N3O5S
reactant | NaOH | 1 N, 4.0 ml | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | N-[N-(3-mercapto-2-methyl-1-oxopropyl)-3-methyl-valyl]tryptophan | SCC(C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C | C21H29N3O4S
